US07592358B2
48.7c. 2-(4-chloro-2-methylphenyl)-5-trimethylsilanylethynylpyrazine
The product was prepared analogously to Example 48.1c from 1.70 g (5.14 mmol) of 2-(4-chloro-2-methylphenyl)-5-iodopyrazine and 0.80 mL (5.66 mmol) of trimethylsilylacetylene (using triethylamine as base). Yield: 700 mg (45% of theoretical); C16H17ClN2Si (M=300.858); calc.: molpeak (M+H)+:301/303 (Cl); found: molpeak (M+H)+:301/303 (Cl); Rf value: 0.5 (silica gel, PE/EtOAc 9:1).

reactant | 2-(4-chloro-2-methylphenyl)-5-iodopyrazine | 5.14 mmol, 1.70 g | ClC1=CC(=C(C=C1)C1=NC=C(N=C1)I)C | C11H8ClIN2
reactant | trimethylsilylacetylene | 5.66 mmol, 0.80 mL | C[Si](C)(C)C#C | C5H10Si
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(4-chloro-2-methylphenyl)-5-trimethylsilanylethynylpyrazine | ClC1=CC(=C(C=C1)C1=NC=C(N=C1)C#C[Si](C)(C)C)C | C16H17ClN2Si
